US04367238
Thionyl chloride (30 ml) and pyridine (1 drop) were added to a solution of 2-methoxy-3-(o-tolyloxy)benzyl alcohol (44.0 g) in benzene (150 ml). The mixture was refluxed under heating for 40 minutes and then evaporated. The residue was dissolved in diethyl ether, washed with aqueous sodium bicarbonate and water successively, dried over magnesium sulfate and then evaporated to give oily o-tolyl 2-methoxy-3-chloromethylphenyl ether (47.50 g).

reactant | Thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxy-3-(o-tolyloxy)benzyl alcohol | 44.0 g | COC1=C(CO)C=CC=C1OC1=C(C=CC=C1)C | C15H16O3
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | o-tolyl 2-methoxy-3-chloromethylphenyl ether | 47.50 g | COC1=C(C=CC=C1CCl)OC=1C(=CC=CC1)C | C15H15ClO2
